US04242260
25.9 g of 1,4-bis(4-nitrostyryl)benzene were added to a mixture consisting of 50 g of iron powder, 12 ml of undiluted hydrochloric acid, 50 ml of water and 800 ml of N,N-dimethyl formamide and subjected to 1.5 hours' intense stirring at a temperature in the range of from 90° to 100° C. Thereafter, the pH value was adjusted to be 8 by means of 10% aqueous solution of sodium carbonate while thus heating, and the undissolved matter was filtered. From the resulting filtrate were separated yellow crystals, and these crystals were collected by filtering, washed in water, dried, and thereafter recrystallized from N,N-dimethyl formaldehyde, whereby there were obtained 20.9 g (yield rate: 95.7%) of 1,4-bis(4-aminostyryl)benzene in the form of yellow crystals (melting point: 300° C. or more).

reactant | 1,4-bis(4-nitrostyryl)benzene | 25.9 g | [N+](=O)([O-])C1=CC=C(C=CC2=CC=C(C=C2)C=CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C22H16N2O4
reactant | hydrochloric acid | 12 ml | Cl | ClH
reactant | water | 50 ml | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | iron | 50 g | [Fe] | Fe
solvent | N,N-dimethyl formamide | 800 ml | CN(C=O)C | C3H7NO
product | 1,4-bis(4-aminostyryl)benzene | 20.9 g, 95.7% | NC1=CC=C(C=CC2=CC=C(C=C2)C=CC2=CC=C(C=C2)N)C=C1 | C22H20N2
